US07122550B2
6-Chloro-N-(2-furylmethyl)pyrazin-2-amine
In a procedure analogous to Example 21, reaction of furfurylamine and 2,6-dichloropyrazine furnished the product (98%).

reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | 2,6-dichloropyrazine | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-(2-furylmethyl)pyrazin-2-amine | 98% | ClC1=CN=CC(=N1)NCC=1OC=CC1 | C9H8ClN3O
